US07932246B2
N-(1-Isobutoxyethoxy) 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]-amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide
To a solution of 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid (0.170 g, 0.3 mmol) in DMF (2.5 ml) was added HOBt (83 mg, 0.54 mmol) and EDCl (133 mg, 0.7 mmol). Intermediate D (0.4 ml, 3 mmol) and DIPEA (0.4 ml, 2.5 mmol) were then added and the mixture stirred overnight. The DMF was then evaporated, and the crude mixture loaded directly onto a silica gel column. The product was eluted with 2% MeOH/DCM to 4% MeOH/DCM, to give the title compound as an off-white solid (83 mg, 43%). This was used directly in the next step without characterisation.

reactant | 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxylic acid | 0.3 mmol, 0.170 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N(C1C2CN(CC12)C1=NC=C(C=N1)C(=O)O)CCN1C(CCC1)=O | C26H27N5O5S
reactant | HOBt | 0.54 mmol, 83 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCl | 0.7 mmol, 133 mg | CCN=C=NCCCN(C)C.Cl
reactant | DIPEA | 2.5 mmol, 0.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | N-(1-Isobutoxyethoxy) 2-(6-{(naphthalene-2-sulfonyl)-[2-(2-oxopyrrolidin-1-yl)ethyl]-amino}-3-azabicyclo[3.1.0]hex-3-yl)pyrimidine-5-carboxamide | 83 mg, 43% | C(C(C)C)OC(C)ONC(=O)C=1C=NC(=NC1)N1CC2C(C2C1)N(CCN1C(CCC1)=O)S(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C32H40N6O6S
